US07276516B2
3-Piperidin-1-yl-1-triisopropylsilanyl-1H-indole
Dissolve piperidine (1.28 mL, 12.9 mmol) in THF (10 mL) and treat with lithium bis(trimethylsilyl)-amide (1.0M in THF, 11.2 mL, 11.2 mmol). To the above solution add 3-bromo-1-triisopropylsilanyl-1H-indole (TCI-US, 3.04 g, 8.62 mmol), (2′-dicyclohexyl-phosphanyl-biphenyl-2-yl)-dimethyl-amine (88 mg, 0.22 mmol), and Pd2dba3.CHCl3 (225 mg, 0.22 mmol). Heat the red solution to 70° C. for 4 h then cool to RT and concentrate. Purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 40% EtOAc/hexanes, to give the title compound (837 mg, 27%). MS (ES+) 357.2 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 7.61 (d, 1H, J=8.4), 7.41 (d, 1H, J=8.4), 7.07 (m, 2H), 6.68 (s, 1H), 3.03 (m, 4H), 1.79 (m, 4H), 1.65 (septet, 3H, J=7.7), 1.58 (m, 2H), 1.12 (d, 18H, J=7.1).

reactant | piperidine | 12.9 mmol, 1.28 mL | N1CCCCC1 | C5H11N
reactant | lithium bis(trimethylsilyl)-amide | 11.2 mmol, 1.0M, 11.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-bromo-1-triisopropylsilanyl-1H-indole | 8.62 mmol, 3.04 g | BrC1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | CHCl3 | 0.22 mmol, 225 mg | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Piperidin-1-yl-1-triisopropylsilanyl-1H-indole | 837 mg, 27% | N1(CCCCC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C22H36N2Si
